US06855813B2
9-Deoxo-9a-aza-9a-homoerythromycin A (73.5 g —0.1 mole) was dissolved in 250 ml acetonitrile. To this solution, formic acid (19 ml, 0.5 mole) followed by formaldehyde (37%, 20 ml, 0.25 mole) were added and refluxed for 24 hours. The pH of the reaction mixture was adjusted with alkali (NaOH solution) to 10.5 and filtered to remove particles. To the filtered acetonitrile solution, an equal volume of water was added to precipitate Azithromycin monohydrate as cube shaped crystals. The crystals were filtered and dried under vacuum at 50° C. to give 65 g of Azithromycin monohydrate having water content of 5% (water content measured by the Karl Fischer titration method). This sample of Azithromycin monohydrate crystals has a characteristic solid state (KBr pellet) IR spectrum (FIG. 1) and a characteristic X-ray diffraction pattern (FIG. 2).

reactant | 9-Deoxo-9a-aza-9a-homoerythromycin A | CC[C@@H]1[C@@]([C@@H]([C@H](NC[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H70N2O12
reactant | formic acid | 0.5 mole, 19 ml | C(=O)O | CH2O2
reactant | formaldehyde | 0.25 mole, 20 ml | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | Azithromycin monohydrate | 65 g | CC[C@@H]1[C@@]([C@@H]([C@H](N(C[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)C)O)(C)O | C38H72N2O12
